****************************************************************
* NXP PSMN013-30YLC
*
* Polarity N-Channel
* Ratings 30V/1.360000E-002OHMS/32A
*
* Date Created Sun Sep 04 13:19:57 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN013-30YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 30000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00988761505884749 TC=0.00558569944359067,3.95127296658374E-07
RBD 9 4 0.00413487870921707 TC=0.00558569944359067,3.95127296658374E-07
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 4.9e-10
RG 1 2 2.09583376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	268.98
+ -10	268.52
+ -5	267.06
+ -4	265.73
+ -3	259.19
+ -2	344.51
+ -1	280.78
+ -0.5	230.91
+ -0.2	200.93
+ -0.1	192.94
+ 0	201.95
+ 0.1	205.59
+ 0.2	194.52
+ 0.5	148.98
+ 1	101.78
+ 2	73.01
+ 3	62.74
+ 4	56.85
+ 5	53.08
+ 6	50.37
+ 8	46.67
+ 10	43.82
+ 12	42.01
+ 15	40.47
+ 20	38.65
+ 25	36.83
+ 30	35.01


.MODEL MINT NMOS(Vto=2.04 Kp=8.80e+001 Nfs=410000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=34 Ibv=2.500000E-004 Rs=1E-6 Is=2.9596185856821e-13
+ N=1 M=0.67 VJ=0.99 Fc=0.5 Cjo=5.4148e-10 Tt=1.5984e-08)

.ENDS

